US06420359B1
c) 8-Bromo-5,11-dihydro-11-ethyl-2-fluoro-4methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A plastic bottle was charged with 2-amino-8-bromo-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (5.10 g, 14.6 mmol). HF-pyridine (100 g) was added and the resulting suspension was cooled to 0° C. Sodium nitrite (1.12 g, 16.1 mmol) was added in several portions over 30 min to produce a purple solution. The mixture was then stirred for 16 h at room temperature. The reaction mixture was poured onto ice and 6 N NaOH. The beige suspension was extracted with EtOAc. The organic extracts were combined, dried over MgSO4, filtered and concentrated. The residue was triturated with Et2O/hexane to give the title compound (4.30 g, 84% yield).

reactant | 2-amino-8-bromo-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 14.6 mmol, 5.10 g | NC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)Br)=O)C | C14H14BrN5O
reactant | HF-pyridine | 100 g | C1=CC=NC=C1.F
reactant | Sodium nitrite | 16.1 mmol, 1.12 g | N(=O)[O-].[Na+]
reactant | NaOH | 6 N | [OH-].[Na+]
product | 8-Bromo-5,11-dihydro-11-ethyl-2-fluoro-4methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 4.30 g, 84% yield | BrC1=CC2=C(N(C3=C(NC2=O)C(=CC(=N3)F)C)CC)N=C1 | C14H12BrFN4O
